US05078907
Preparation of Diphenyl Terephthalate
This compound was prepared by the procedure described for diethyl terephthalate. Typical reagent levels were as follows: terephthaloyl chloride (20.3g, 0.10 mole), phenol (18.9 g, 0.20 mole) and 150 ml of toluene. Product yield was 29 g (91%). After workup, diphenyl terephthalate was used without further purification.

reactant | diethyl terephthalate | C(C1=CC=C(C(=O)OCC)C=C1)(=O)OCC | C12H14O4
reactant | terephthaloyl chloride | 0.10 mole, 20.3g | C(C1=CC=C(C(=O)Cl)C=C1)(=O)Cl | C8H4Cl2O2
reactant | phenol | 0.20 mole, 18.9 g | C1(=CC=CC=C1)O | C6H6O
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | Diphenyl Terephthalate | C(C1=CC=C(C(=O)OC2=CC=CC=C2)C=C1)(=O)OC1=CC=CC=C1 | C20H14O4
